US05728835
N-(2-Hydroxyethyl)-3-methoxy-N-(2-methoxyphenyl)benzamide
3-Methoxy-N-(2-methoxyphenyl)-N-(2-tetrahydropyranyloxyethyl)benzamide (501 mg, 1.30 mmol) was dissolved in methanol (4 ml) to which was subsequently added a catalytically effective amount of p-toluenesulfonic acid monohydrate and stirred for 3 hours at room temperature. The reaction solution was mixed with saturated sodium bicarbonate aqueous solution (10 ml) and extracted with ether, and then washed with water and saturated brine. The resulting organic layer was dried on anhydrous magnesium sulfate, the solvent was removed by evaporation and then the resulting colorless oily residue was purified by subjecting it to a silica gel column chromatography (ether:hexane=3:1) to obtain 340 mg (86.8%) of the title compound in the form of light yellow oil.

reactant | 3-Methoxy-N-(2-methoxyphenyl)-N-(2-tetrahydropyranyloxyethyl)benzamide | 1.30 mmol, 501 mg | COC=1C=C(C(=O)N(CCOC2OCCCC2)C2=C(C=CC=C2)OC)C=CC1 | C22H27NO5
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | N-(2-Hydroxyethyl)-3-methoxy-N-(2-methoxyphenyl)benzamide | 340 mg, 86.8% | OCCN(C(C1=CC(=CC=C1)OC)=O)C1=C(C=CC=C1)OC | C17H19NO4
